US06124479
10% Palladium-carbon (2.63 g) was added to thus obtained (S)-4-benzyloxymethyl-2,2-dimethyl-1,3-dioxolane (9.267 g, 41.69 mmol) in ethanol (250 ml) and the mixture was stirred for 3 hours at 25° C. under an atmosphere of hydrogen. After the reaction was over, palladium-carbon was filtered off and the solvent was condensed in vacuo. The crude product was distilled to give 4.68 g of (S)-2,2-dimethyl-1,3-dioxolane-4-methanol (yield 85%, b.p. 65° C. at 3 mmHg, optical purity 97.5% e.e., specific rotation [α]D20 +10.84°(c=1,MeOH))).

reactant | (S)-4-benzyloxymethyl-2,2-dimethyl-1,3-dioxolane | 41.69 mmol, 9.267 g | C(C1=CC=CC=C1)OC[C@@H]1OC(OC1)(C)C | C13H18O3
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | Palladium-carbon | 2.63 g | [C].[Pd]
product | (S)-2,2-dimethyl-1,3-dioxolane-4-methanol | 4.68 g, yield 85% | CC1(OC[C@@H](O1)CO)C | C6H12O3
